US05583227
To a suspension of 25.3 g portion of 2,3-dichloroquinoxaline-6-carbonyl chloride synthesized in accordance with the procedure disclosed in JP-A 57-98274 in 400 ml of anhydrous 1,4-dioxane, was added 14.0 g of sodium borohydride, and the mixture was stirred at room temperature for 10 minutes in an atmosphere of nitrogen. With cooling on an ice bath, to this was added dropwise 100 ml of water. Thereafter, 1,4-dioxane was evaporated under a reduced pressure, and the resulting residue was purified by chromatography on a silica gel column (eluent, hexane/ethyl acetate) to obtain 8.75 g of 2,3-dichloro-6-hydroxymethylquinoxaline.

reactant | 2,3-dichloroquinoxaline-6-carbonyl chloride | ClC1=NC2=CC=C(C=C2N=C1Cl)C(=O)Cl | C9H3Cl3N2O
reactant | sodium borohydride | 14.0 g | [BH4-].[Na+]
reactant | water | 100 ml | O | H2O
solvent | 1,4-dioxane | 400 ml | O1CCOCC1 | C4H8O2
product | 2,3-dichloro-6-hydroxymethylquinoxaline | 8.75 g | ClC1=NC2=CC=C(C=C2N=C1Cl)CO | C9H6Cl2N2O
